US07932270B2
A mixture of (R)-tert-butyl 2-(azidomethyl)azetidine-1-carboxylate (17 g, 80 mmol), 10% Pd/C (2 g) and MeOH (150 mL) was stirred under 45 psi hydrogen for 1 hour. The catalyst was filtered off and the filtrate was concentrated to give (R)-tert-butyl 2-(aminomethyl)azetidine-1-carboxylate (14.9 g, yield 100%). LRMS (M+H+) m/z 187.3.

reactant | (R)-tert-butyl 2-(azidomethyl)azetidine-1-carboxylate | 80 mmol, 17 g | N(=[N+]=[N-])C[C@@H]1N(CC1)C(=O)OC(C)(C)C | C9H16N4O2
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 2 g | [Pd] | Pd
solvent | MeOH | 150 mL | CO | CH4O
product | (R)-tert-butyl 2-(aminomethyl)azetidine-1-carboxylate | 14.9 g, yield 100% | NC[C@@H]1N(CC1)C(=O)OC(C)(C)C | C9H18N2O2
